US06060469
4-(3-Bromo-4-methoxyphenyl)pyridine
4-(4-Methoxyphenyl)pyridine (1 g, 5.4 mmol) was dissolved in glacial acetic acid (6 ml). Iron powder (30 mg, 0.54 mmol) was added followed by a solution of bromine (0.36 ml) in glacial acetic acid (3 ml) slowly over 5 minutes. The resulting solution was stirred at 60° C. for 1 hour. A solution of bromine (0.13 ml) in glacial acetic acid (1 ml) was added and stirring was continued at 60° C. for 1.5 hours. The solution was allowed to cool to ambient temperature, diluted with water (20 ml). Excess bromine was destroyed by adding in sold sodium bisulphite until all the colour had disappeared. Solid sodium carbonate was added until the solution was basic and the resulting solution was then extracted with ethyl acetate (2×30 ml) and dried over sodium sulphate. Removal of the solvent gave an oil which was chromatographed on silica gel in diethyl ether giving the title compound as a clear oil (0.77 g, 54%). 1H NMR (250 MHz, CDCl3) δ 8.66-8.62 (2H, d, J=8.6 Hz), 7.87-7.86 (1H, d, J=2.2 Hz), 7.61-7.56 (1H, dd, J=8.5 Hz and 2.2 Hz), 7.48-7.46 (1H, d, J=8.5 Hz), 7.03-6.99 (2H, d, J=8.6 Hz), and 3.96 (3H, s). m/z (ES+) 264, 266 (M+1).

reactant | 4-(4-Methoxyphenyl)pyridine | 5.4 mmol, 1 g | COC1=CC=C(C=C1)C1=CC=NC=C1 | C12H11NO
reactant | bromine | 0.36 ml | BrBr | Br2
reactant | bromine | 0.13 ml | BrBr | Br2
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
catalyst | Iron | 0.54 mmol, 30 mg | [Fe] | Fe
product | 4-(3-Bromo-4-methoxyphenyl)pyridine | BrC=1C=C(C=CC1OC)C1=CC=NC=C1 | C12H10BrNO
